US05854275
To a solution of diisopropylamine (3.03 mL, 21.6 mmol) in dry tetrahydrofuran (75 mL) at -78° C. was added a 2.38M solution of n-butyllithium in hexane (9.07 mL, 21.6 mmol). After 10 minutes, a solution of 1-(tert-butoxycarbonylmethylamino)cyclohexanecarboxylic acid benzyl ester (5.0 g, 14.4 mmol) in tetrahydrofuran (25 mL) was added and the resulting mixture was allowed to warm to -40° C. over 2.5 hours. The mixture was again cooled to -78° C. and allyl bromide was added. The mixture was allowed to warm to 0° C. over 4 hours while stirring and was quenched by addition of a saturated aqueous solution of ammonium chloride. Water was added and the mixture was extracted with ethyl acetate. The organic phase was washed with brine, dried over magnesium sulfate and evaporated under vacuum to afford an oil. The oil was chromatographed on silica gel eluting with 1% ethyl acetate in methylene chloride to give 1-(1-tert-butoxycarbonylbut-3-enylamino)cyclohexanecarboxylic acid benzyl ester as an oil, 2.0 g (36%).

reactant | diisopropylamine | 21.6 mmol, 3.03 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 21.6 mmol, 9.07 mL | CCCCCC | C6H14
reactant | 1-(tert-butoxycarbonylmethylamino)cyclohexanecarboxylic acid benzyl ester | 14.4 mmol, 5.0 g | C(C1=CC=CC=C1)OC(=O)C1(CCCCC1)NCC(=O)OC(C)(C)C | C20H29NO4
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 1-(1-tert-butoxycarbonylbut-3-enylamino)cyclohexanecarboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1(CCCCC1)NC(CC=C)C(=O)OC(C)(C)C | C23H33NO4
